US04923881
To a solution of 2,2-dibutyl-3,4-dihydro-5-(2-quinolylmethoxy)-1(2H)-naphthalenone (500 Mg) in methanol (20 ml) was added sodium borohydride (68 mg) with stirring in an ice bath. The mixture was stirred for half an hour in an ice bath and then sodium borohydride (136 mg) was added thereto at the same temperature. The solution was stirred for 1.5 hours at ambient temperature, followed by the addition of sodium borohydride (68 mg). The mixture was stirred at ambient temperature for half an hour and then poured into water with stirring in an ice bath. The separated solid was collected by filtration, washed with water (50 ml), dried, and recrystallized from methanol to yield 2,2-dibutyl-5-(2-quinolylmethoxy)-1,2,3,4-tetrahydro-1-naphthol (388 mg). mp: 122°-123° C.

reactant | 2,2-dibutyl-3,4-dihydro-5-(2-quinolylmethoxy)-1(2H)-naphthalenone | C(CCC)C1(C(C2=CC=CC(=C2CC1)OCC1=NC2=CC=CC=C2C=C1)=O)CCCC | C28H33NO2
reactant | sodium borohydride | 68 mg | [BH4-].[Na+]
reactant | sodium borohydride | 136 mg | [BH4-].[Na+]
reactant | sodium borohydride | 68 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 2,2-dibutyl-5-(2-quinolylmethoxy)-1,2,3,4-tetrahydro-1-naphthol | 388 mg | C(CCC)C1(C(C2=CC=CC(=C2CC1)OCC1=NC2=CC=CC=C2C=C1)O)CCCC | C28H35NO2
